### PR TITLE
[Merged by Bors] - feat: Add multiplicative version of structure theorem for finitely generated abelian groups

### PR DESCRIPTION
**Pull request by Aaron1011**
This is similar to the multiplicative version of the structure theorem for *finite* abelian groups (using a pi type instead of a direct sum)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/FiniteAbelian/Basic.lean [hunk 1]
```diff
@@ -173,4 +174,21 @@ theorem equiv_prod_multiplicative_zmod_of_finite (G : Type*) [CommGroup G] [Fini
...
+      Nonempty <| G ≃* (j → Multiplicative ℤ) × ((i : ι) → Multiplicative (ZMod (p i ^ e i))) := by
+  obtain ⟨n, ι, inst, x, p, e, equiv⟩ := AddCommGroup.equiv_free_prod_directSum_zmod (Additive G)
+  exact ⟨ι, (Fin n), inst, by infer_instance, x, p, e, ⟨MulEquiv.toAdditive (G := G).symm <|
+    equiv.some.trans <|
+    (((Finsupp.addEquivFunOnFinite.trans <|
+      (((AddEquiv.piAdditive _).trans
+        (AddEquiv.arrowCongr (Equiv.refl _) (AddEquiv.additiveMultiplicative ℤ)
+    )).symm)).prodCongr (DirectSum.addEquivProd _ )).trans <|
+    (AddEquiv.prodAdditive _ _).symm
+  )⟩⟩
```
Comment (tb65536) [inline Mathlib/GroupTheory/FiniteAbelian/Basic.lean]:
```suggestion
  exact ⟨ι, Fin n, inst, inferInstance, x, p, e, ⟨MulEquiv.toAdditive.symm <| equiv.some.trans <|
    ((Finsupp.addEquivFunOnFinite.trans <| ((AddEquiv.piAdditive _).trans <|
        (AddEquiv.additiveMultiplicative ℤ).arrowCongr (Equiv.refl _)).symm).prodCongr
          (DirectSum.addEquivProd _ )).trans <| (AddEquiv.prodAdditive _ _).symm⟩⟩
```

**Review by tb65536 — APPROVED** [review]

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
